US07125901B2
To a solution of tert-butyl 4-({[2-(acetylamino)-1,3-thiazol-4-yl]carbonyl}amino)phenylcarbamate (85 mg) in methanol (1 ml) was added 4N hydrogen chloride in ethyl acetate (1 ml), and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was concentrated in vacuo. The solid residue was collected and washed with ethyl acetate to give 2-(acetylamino)-N-(4-aminophenyl)-1,3-thiazole-4-carboxamide hydrochloride (70 mg).

reactant | tert-butyl 4-({[2-(acetylamino)-1,3-thiazol-4-yl]carbonyl}amino)phenylcarbamate | 85 mg | C(C)(=O)NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H20N4O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-(acetylamino)-N-(4-aminophenyl)-1,3-thiazole-4-carboxamide hydrochloride | 70 mg | Cl.C(C)(=O)NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)N | InChI=1S/C12H12N4O2S.ClH/c1-7(17)14-12-16-10(6-19-12)11(18)15-9-4-2-8(13)3-5-9;/h2-6H,13H2,1H3,(H,15,18)(H,14,16,17);1H
